US09216972B2
To a solution of ethyl 2-(diethoxyphosphoryl)acetate (0.714 mL, 3.57 mmol) in 10 mL of THF at 0° C. was added 1 M potassium tert-butoxide in THF (3.57 mL, 3.57 mmol) dropwise, and the mixture was stirred for 15 mins at the same temperature. Then a solution of 1-(4-fluorophenyl)cyclohexanecarbaldehyde (Intermediate I-7A, 368 mg, 1.784 mmol) in 3 mL of THF was added dropwise, and the mixture was stirred at room temperature for 18 hrs. The reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate extract was washed with brine, dried over sodium sulfate and evaporated to give an oily residue which was purified by Combiflash (80 g silica gel) eluting with hexane followed by 5:95 EtOAc-hexane to give the desired (E)-ethyl 3-(1-(4-fluorophenyl)cyclohexyl)acrylate (453 mg, 92% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.28 (2H, dd, J=9.02, 5.28 Hz), 7.01 (2H, t, J=8.80 Hz), 6.95 (1H, d, J=16.07 Hz), 5.60 (1H, d, J=16.07 Hz), 4.16 (2H, q, J=7.26 Hz), 1.99-2.08 (2H, m), 1.85-1.94 (2H, m), 1.39-1.62 (6H, m), 1.27 (3H, t, J=7.15 Hz).

reactant | ethyl 2-(diethoxyphosphoryl)acetate | 3.57 mmol, 0.714 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | 1-(4-fluorophenyl)cyclohexanecarbaldehyde | 1.784 mmol, 368 mg | FC1=CC=C(C=C1)C1(CCCCC1)C=O | C13H15FO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3.57 mmol, 3.57 mL | C1CCOC1 | C4H8O
product | (E)-ethyl 3-(1-(4-fluorophenyl)cyclohexyl)acrylate | 453 mg, 92% yield | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/C(=O)OCC | C17H21FO2
